
***************************************************************												
*	Infineon	Technologies	AG									
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX				
*	VALID	UP	TO	6	GHZ							
*	>>>	BFR92P	<<<								
*	(C)	2014	Infineon	Technologies	AG							
*	Version	3.0	March 2014							
***************************************************************			
*.OPTION TNOM=25, GMIN= 1.00e-12
*BFR92P 11 22 33
.SUBCKT BFR92P 11 22 33 

CBEPAR 2 3 1.872E-013
CBCPAR 2 1 1.575E-013
CCEPAR 1 3 1.959E-013
LEI    3 30 1E-009
LBI    2 20 1E-009
CBEPCK 20 30  1.304E-014
CBCPCK 1 20  1.5E-013
CCEPCK 1 30  1.5E-013
LB    22 20 3E-010
LE   30 33 3E-010
*LC   11 C  5.908E-010
LC   11 1  5.908E-010

*RE1 E E1 1E-03
*RE2 E E2 1E-03

Q1 1 2 3 M_BFR92P

.MODEL 	M_BFR92P	NPN(										
+	IS	=	2.241E-016									
+	BF	=	127.2									
+	NF	=	0.9935									
+	VAF	=	55.34									
+	IKF	=	0.1506									
+	ISE	=	2.144E-015									
+	NE	=	1.797									
+	BR	=	10		
+	NR	=	0.99		
+	VAR	=	3.105	
+	IKR	=	0.1135		
+	ISC	=	4.7E-015		
+	NC	=	2.001		
+	RB	=	9.688		
+	IRB	=	0.0001166		
+	RBM	=	0.85	
+	RE	=	0.9388		
+	RC	=	4.925	
+	XTB	=	1.303		
+	EG	=	1.11		
+	XTI	=	6.548		
+	CJE	=	6.901E-013		
+	VJE	=	0.9		
+	MJE	=	0.4469		
+	TF	=	1.95E-011		
+	XTF	=	453.7		
+	VTF	=	5.969		
+	ITF	=	1.249		
+	PTF	=	1E-015		
+	CJC	=	2.394E-013		
+	VJC	=	0.5764		
+	MJC	=	0.3352		
+	XCJC	=	0.1048		
+	TR	=	5.53E-009
+	CJS	=	0		
+	MJS	=	0
+         VJS       =         0.1 		
+	FC	=	0.999 ;1		
+	KF	=	0		
+	AF	=	1)
***************************************************************					
					

.ENDS BFR92P
